US07465825B2
A solution of 3-(4′-dibenzofuran-4-yl-biphen-4-ylmethylsulfanyl)-propanoic acid methyl ester (210 mg, 0.46 mmol) in THF (2 mL) and methanol (2 mL) was cooled to 0° C. and treated with 2 N KOH (1.0 mL) After stirring at room temperature for 1 h the solution was acidified with 10% HCl to pH 2 and diluted with ethyl acetate (25 mL). After being seperated, the aqueous layer was extracted with ethyl acetate (3×15 mL) and the combined organic layers were dried over MgSO4 and concentrated. Purification by flash column chromatography (2-5% methanol in dichloromethane) provided 3-(4′-dibenzofuran-4-yl-biphen-4-ylmethylsulfanyl)-propanoic acid (180 mg, 90%) as white solid. 1H NMR (CDCl3), 8.01 (d, J=8 Hz, 2 H), 7.94 (d, J=8 Hz, 2 H), 7.78 (d, J=8 Hz, 2 H), 7.66 (m, 4 H), 7.42 (m, 5 H), 3.82 (s, 2 H), 3.82 (s, 2 H), 2.76 (m, 2 H), 2.56 (t, J=6 Hz, 2 H). LCMS 462 (M++23).

reactant | 3-(4′-dibenzofuran-4-yl-biphen-4-ylmethylsulfanyl)-propanoic acid methyl ester | 0.46 mmol, 210 mg | COC(CCSCC1=CC=C(C=C1)C1=CC=C(C=C1)C1=CC=CC2=C1OC1=C2C=CC=C1)=O | C29H24O3S
reactant | KOH | 2 N, 1.0 mL | [OH-].[K+]
reactant | HCl | Cl | ClH
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | methanol | 2 mL | CO | CH4O
solvent | ethyl acetate | 25 mL | C(C)(=O)OCC | C4H8O2
product | 3-(4′-dibenzofuran-4-yl-biphen-4-ylmethylsulfanyl)-propanoic acid | 180 mg, 90% | C1=CC=C(C=2OC3=C(C21)C=CC=C3)C3=CC=C(C2=CC=C(C=C2)CSCCC(=O)O)C=C3 | C28H22O3S
